US09382188B2
step 2) 1-(2-(5-fluoro-2-methoxypyridin-4-yl)-5-((4-methoxybenzyl)oxy)phenyl)-2,2-dimethylpropan-1-ol
To a solution of 1-(2-(5-fluoro-2-methoxypyridin-4-yl)-5-((4-methoxybenzyl)oxy)phenyl)-2,2-dimethylpropan-1-one (270 mg) in methanol (5 mL) was added sodium borohydride (50 mg), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (255 mg) as a white amorphous solid.

reactant | 1-(2-(5-fluoro-2-methoxypyridin-4-yl)-5-((4-methoxybenzyl)oxy)phenyl)-2,2-dimethylpropan-1-one | 270 mg | FC=1C(=CC(=NC1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(C)(C)C)=O | C25H26FNO4
reactant | sodium borohydride | 50 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
product | 1-(2-(5-fluoro-2-methoxypyridin-4-yl)-5-((4-methoxybenzyl)oxy)phenyl)-2,2-dimethylpropan-1-ol | 255 mg | FC=1C(=CC(=NC1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(C)(C)C)O | C25H28FNO4
